US09278950B2
Step 1. Benzyl [(3S)-1-(3-bromo-5-nitropyridin-4-yl)piperidin-3-yl]carbamate
A mixture of 3-bromo-4-chloro-5-nitropyridine (from Ark Pharm, 0.050 g, 0.21 mmol), benzyl (3S)-piperidin-3-ylcarbamate (0.059 g, 0.25 mmol), and triethylamine (0.088 mL, 0.63 mmol) in isopropyl alcohol (0.8 mL) was heated at 90° C. in a sealed vial for 16 h. The reaction mixture was diluted with EtOAc (40 mL) and water (3 mL). The layers were separated and the organic layer was washed with water (3×3 mL) and the combined aqueous phases were extracted with EtOAc (3 mL). The combined organic layers were washed with brine (3 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to afford the sub-title compound (0.084 g). The crude product was used without further purification in the subsequent reaction. LCMS (ESI) calc. for C18H20BrN4O4[M+H]+: m/z=435.1. found 435.0/437.0.

reactant | 3-bromo-4-chloro-5-nitropyridine | 0.21 mmol, 0.050 g | BrC=1C=NC=C(C1Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | benzyl (3S)-piperidin-3-ylcarbamate | 0.25 mmol, 0.059 g | N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C13H18N2O2
reactant | triethylamine | 0.63 mmol, 0.088 mL | C(C)N(CC)CC | C6H15N
solvent | isopropyl alcohol | 0.8 mL | C(C)(C)O | C3H8O
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | water | 3 mL | O | H2O
product | Benzyl [(3S)-1-(3-bromo-5-nitropyridin-4-yl)piperidin-3-yl]carbamate | 0.084 g | BrC=1C=NC=C(C1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O)[N+](=O)[O-] | C18H19BrN4O4
